US08383683B2
To a stirred solution of (2,4-dichloro-phenoxymethylsulfanyl)-acetic acid (125 mg, 0.47 mmol) in dry THF (20 mL) was added HOBt (76 mg, 0.56 mmol) and EDAC (108 mg, 0.56 mmol). After stirring for 1 hr at room temperature, DIPEA (180 μL) and 4-methylaminoadamantan-1-ol (93 mg, 0.52 mmol) were added and the resulting mixture was stirred for 16 hrs. at room temperature. The volatiles were removed in vacuo and the residue was purified using prep. HPLC/MS affording crude 2-(2,4-dichloro-phenoxymethylsulfanyl)-N-(5-hydroxy-adamantan-2-yl)-N-methyl-acetamide which was used without further purification in the next step.

reactant | (2,4-dichloro-phenoxymethylsulfanyl)-acetic acid | 0.47 mmol, 125 mg | ClC1=C(OCSCC(=O)O)C=CC(=C1)Cl | C9H8Cl2O3S
reactant | HOBt | 0.56 mmol, 76 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 0.56 mmol, 108 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 180 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-methylaminoadamantan-1-ol | 0.52 mmol, 93 mg | CNC1C2CC3(CC(CC1C3)C2)O | C11H19NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(2,4-dichloro-phenoxymethylsulfanyl)-N-(5-hydroxy-adamantan-2-yl)-N-methyl-acetamide | ClC1=C(OCSCC(=O)N(C)C2C3CC4CC(CC2C4)(C3)O)C=CC(=C1)Cl | C20H25Cl2NO3S
